US04818754
7-(2-Pentanoyloxyethylamino)-5-methyl-1H-pyrazolo[4,3-b]pyridine (E9)
The title compound was prepared from 7-(2-hydroxyethylamino)-5-methyl-1H-pyrazolo[4,3-b]pyridine* (2.5 g) and valeryl chloride by the general method of Example 4. The product obtained was purified by column chromatography as described for Example 4 and then partitioned between ethyl acetate and water, the aqueous layer being brought to pH 9 with 10% sodium hydroxide. The ethyl acetate layer was separated and the aqueous layer extracted with ethyl acetate (×3). The combined organic layers were dried (anhydrous sodium sulphate) and evaporated to dryness to give a pale yellow gum which on trituration with ether and washing the resulting solid with ethyl acetate/ether gave the title compound as a pale yellow solid (1.48 g, 41%), m.p. 117°-119°.

reactant | 7-(2-hydroxyethylamino)-5-methyl-1H-pyrazolo[4,3-b]pyridine | OCCNC1=C2C(=NC(=C1)C)C=NN2 | C9H12N4O
reactant | valeryl chloride | C(CCCC)(=O)Cl | C5H9ClO
product | 7-(2-Pentanoyloxyethylamino)-5-methyl-1H-pyrazolo[4,3-b]pyridine | 1.48 g, 41% | C(CCCC)(=O)OCCNC1=C2C(=NC(=C1)C)C=NN2 | C14H20N4O2
